US08058441B2
1-Acetyl-6-(4-chlorobenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
A mixture of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg), 4-chlorobenzoyl chloride (11 mg) and N,N-diisopropylethylamine (22 μl) in tetrahydrofuran (1 ml) was stirred for 18 h. The reaction mixture was concentrated in vacuo, the residue was dissolved in ethyl acetate and washed with 0.5HCl, water, 5% aq. NaHCO3, water and brine. The organic layer was separated, dried (MgSO4) and concentrated in vacuo. The residue was chromatographed on silicagel in heptane/ethyl acetate=1/0=>0/1 (v/v) as eluent.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | 4-chlorobenzoyl chloride | 11 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | N,N-diisopropylethylamine | 22 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-(4-chlorobenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=CC=C(C=C1)Cl)=O)(C)C1=CC=CC=C1)(C)C | C27H27ClN2O2
